US08106064B2
2,4-Bis-benzyloxy-6-chloro-5-ethyl-pyrimidine (39):
To a stirred solution of benzyl alcohol (80 ml) in water bath, was added sodium metal (2.17 g, 94.6 mmol) under nitrogen atmosphere. After complete reaction of sodium metal, the mixture was cooled in an ice bath and 2,4,6-Trichloro-5-ethyl-pyrimidine (10.5 g, 49.6 mmol) was added portionwise. After stirring for 30 min in an ice bath, the reaction mixture was stirred at room temperature for overnight. Excess benzyl alcohol was evaporated in vacuo and the residue was dissolved in ether, washed with water, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a pale yellow oil. The crude product was purified by silica gel column chromatography (eluent, ether:hexane (4:96)) to give 14 g (80%) of a white solid; m.p. 53-54° C.; 1H NMR (200 MHz, CDCl3) δ: 1.14 (3H, t, J=7.4 Hz), 2.70 (2H, q, J=7.4 Hz), 5.41 (2H, s), 5.45 (2H, s), 7.34-7.53 (10H, m); m/z (EI): 354 (M+).

reactant | benzyl alcohol | 80 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium | 94.6 mmol, 2.17 g | [Na] | Na
reactant | 2,4,6-Trichloro-5-ethyl-pyrimidine | 49.6 mmol, 10.5 g | ClC1=NC(=C(C(=N1)Cl)CC)Cl | C6H5Cl3N2
solvent | water | O | H2O
product | 2,4-Bis-benzyloxy-6-chloro-5-ethyl-pyrimidine | 14 g, 80% | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)OCC1=CC=CC=C1)CC)Cl | C20H19ClN2O2
